US08486952B2
2-chloro-7-(4-fluorophenyl)-N-methyl-5,7-dihydrofuro[3,4-d]pyrimidin-4-amine (Preparation Ma) (149 mg, 0.533 mmol) and 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (Preparation A) (119 mg, 0.533 mmol) were combined and purified as per Example 75 to give the racemate N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-7-(4-fluorophenyl)-N4-methyl-5,7-dihydrofuro[3,4-d]pyrimidine-2,4-diamine which was separated by multiple chiral SFC injections (OJ-H 30×250 mm, 5 μM, 35% MeOH (0.1% DEA)/CO2) to give N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-7-(4-fluorophenyl)-N4-methyl-5,7-dihydrofuro[3,4-d]pyrimidine-2,4-diamine (first to elute, enantiomer A) (18.3 mg, 0.039 mmol, 7.36% yield) as a white scrapable foam. LC-MS (M+H)+=467.0. 1H NMR (500 MHz, MeOD) δ ppm 7.89-7.94 (1H, m), 7.65-7.69 (1H, m), 7.36-7.42 (2H, m), 7.20-7.24 (1H, m), 7.13-7.18 (1H, m), 7.03-7.12 (3H, m), 5.79 (1H, br. s.), 5.08-5.16 (1H, m), 4.95-5.03 (1H, m), 3.68-3.73 (3H, m), 3.02-3.07 (3H, m). The absolute stereochemistry of Example 79A was not determined.

reactant | 2-chloro-7-(4-fluorophenyl)-N-methyl-5,7-dihydrofuro[3,4-d]pyrimidin-4-amine | 0.533 mmol, 149 mg | ClC=1N=C(C2=C(N1)C(OC2)C2=CC=C(C=C2)F)NC | C13H11ClFN3O
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
product | N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-7-(4-fluorophenyl)-N4-methyl-5,7-dihydrofuro[3,4-d]pyrimidine-2,4-diamine | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(OC2)C2=CC=C(C=C2)F)NC)OC | C23H20ClFN6O2
